US05202485
3-(N-Ethyl-N-butylamino)phenol was synthesized by following the procedure of Examples 29 and 30. In a 500 cc-volume SUS-made autoclave equipped with a stirrer were charged 185.5 g of methanol, 1.6 g of a catalyst comprising 5% by weight of platinum supported on activated carbon, and 0.015 g of lead acetate, and the mixture was stirred at room temperature for one hour. Thereafter, 32.7 g (0.30 mole) of m-aminophenol was charged, the hydrogen pressure was maintained at 10 kg/cm2, and 47.6 g of a methanol solution containing isobutyraldehyde (isobutyraldehyde content: 0.33 mole) was continuously introduced over a period of 30 minutes at 40° C. After completion of the introduction of isobutyraldehyde, the mixture was maintained at the same temperature for an additional 1 hour, after which 41.1 g of a methanol solution containing 45% by weight of acetaldehyde (acetaldehyde content: 0 42 mole), and 0.20 g (0.0033 mole) of acetic acid were continuously introduced over a period of 30 minutes. After completion of the introduction of acetaldehyde, the mixture was maintained at the same temperature for an additional 70 minutes and allowed to cool. The filtrate obtained by removing the catalyst by filtration was analyzed by gas chromatography, liquid chromatography, and GPC. The results are shown in Table 12.

reactant | lead acetate | 0.015 g | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | m-aminophenol | 0.30 mole, 32.7 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | hydrogen | [H][H] | H2
reactant | isobutyraldehyde | 0.33 mole | C(C(C)C)=O | C4H8O
reactant | acetaldehyde | 42 mole | C(C)=O | C2H4O
reactant | acetic acid | 0.0033 mole, 0.20 g | C(C)(=O)O | C2H4O2
catalyst | platinum | [Pt] | Pt
solvent | methanol | 41.1 g | CO | CH4O
solvent | methanol | 47.6 g | CO | CH4O
solvent | methanol | 185.5 g | CO | CH4O
product | 3-(N-Ethyl-N-butylamino)phenol | C(C)N(CCCC)C=1C=C(C=CC1)O | C12H19NO
